US03966773
Preparation of 1-iodo-3-triphenylmethoxy-trans-1-octene
Treatment of 7.62 g. (0.03 mole) of 1 -iodo-trans-1-octen-3-ol with 10.67 g. (0.033 mole) of triphenylmethyl bromide in pyridine in the manner described in Example 728 gave 13.448 g. (90%) of a colorless oil.

reactant | 1 -iodo-trans-1-octen-3-ol | 0.03 mole | I\C=C\C(CCCCC)O | C8H15IO
reactant | triphenylmethyl bromide | 0.033 mole | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Br | C19H15Br
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-iodo-3-triphenylmethoxy-trans-1-octene | I\C=C\C(CCCCC)OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H29IO
